US03991053
1-hydroxy-1-methyl-1,3-dihydrofuro[3,4-b]quinoxaline 4,9-Dioxide
To a mixture of 1,500 ml. of acetone and 75 ml. of water, containing 3.78 g. (0.02 mol.) of 4-toluenesulfonic acid monohydrate, was added 63.6 g. (0.26 mol.) of 1-methoxy-1-methyl-1,3-dihydrofuro[3,4-b]quinoxaline 4,9-dioxide. The reaction mixture was heated under reflux for 4.5 hours and then allowed to cool to ambient temperature. The solvent was removed by evaporation in vacuo, and the residue was washed with ether. This afforded 58.7 g. (98% yield) of crude product. The crude product was recrystallized from water with the aid of activated carbon, to give a 68% yield of product having m.p. 159°-160° C.

reactant | acetone | CC(=O)C | C3H6O
reactant | 4-toluenesulfonic acid monohydrate | 0.02 mol | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 1-methoxy-1-methyl-1,3-dihydrofuro[3,4-b]quinoxaline 4,9-dioxide | 0.26 mol | COC1(OCC=2C1=[N+](C1=CC=CC=C1[N+]2[O-])[O-])C | C12H12N2O4
solvent | water | O | H2O
product | 1-hydroxy-1-methyl-1,3-dihydrofuro[3,4-b]quinoxaline 4,9-Dioxide | 68% yield | OC1(OCC=2C1=[N+](C1=CC=CC=C1[N+]2[O-])[O-])C | C11H10N2O4
